US09029295B2
To a solution of ethyl (2,6-diethyl-4-methylphenyl)glyoxylate (320.82 g) in tetrahydrofuran (600 ml) was added 10.7 weight % of aqueous sodium hydroxide solution (900 ml) dropwise at 10° C. of the internal temperature over 2 hours. The resulting mixture was stirred at room temperature for 1 hour. Then, the organic layer was evaporated, and the aqueous layer was washed with tert-butyl methyl ether. To the aqueous layer was added concentrated hydrochloric acid (180 ml) dropwise, and extracted with tert-butyl methyl ether. The organic layer was concentrated under reduced pressure to give 166.55 g of (2,6-diethyl-4-methylphenyl)glyoxylic acid.

reactant | ethyl (2,6-diethyl-4-methylphenyl)glyoxylate | 320.82 g | C(C)C1=C(C(=CC(=C1)C)CC)C(C(=O)OCC)=O | C15H20O3
reactant | sodium hydroxide | 900 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | (2,6-diethyl-4-methylphenyl)glyoxylic acid | 166.55 g | C(C)C1=C(C(=CC(=C1)C)CC)C(C(=O)O)=O | C13H16O3
